US06291508B1
Methyl (E,E,E)-7-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-3-methyl-octa-2,4,6-trienoate
56 mg (2.46 mmol) of metallic sodium was added to methanol to prepare a meethanolic solution or sodium meethoxide. This solution was concentrated in a vacuum and suspended in N,N-dimethylformamide, followed by the addition of 560 mg (2.14 mmol) of triethyl 3-methyl-4-phosphonocrotonate under cooling with ice. After 30 minutes, 400 mg (1.64 mmol) of (E)-3-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-2-butenal was added to the mixture obtained above. The mixture thus obtained was stirred for one hour, followed by the addition of an aqueous solution of ammonium chloride. The obtained mixture was extracted with ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate and concentrated in a vacuum. The obtained residue was purified by silica gel column chromatography (15% ethyl acetate/n-hexane) to give 330 mg of the title compound as a reddish-brown oil.

reactant | sodium | 2.46 mmol, 56 mg | [Na] | Na
reactant | triethyl 3-methyl-4-phosphonocrotonate | 2.14 mmol, 560 mg | CCOC(=O)/C=C(\C)/CP(=O)(OCC)OCC | C11H21O5P
reactant | (E)-3-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-2-butenal | 1.64 mmol, 400 mg | CC(C)N1CCCC2=CC(=CC=C12)/C(=C/C=O)/C | C16H21NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | Methyl (E,E,E)-7-[1-(1-methylethyl)-1,2,3,4-tetrahydroquinolin-6-yl]-3-methyl-octa-2,4,6-trienoate | 330 mg | CC(C)N1CCCC2=CC(=CC=C12)/C(=C/C=C/C(=C/C(=O)OC)/C)/C | C22H29NO2
